data/oMe_Silver.jsonl
{"reaction_id": "NR-316_1-c2ccccc2_2-C_3-c2ccccc2_4-Cl_5-C(F)(F)F","level": "medium","name": "Vilsmeier-Haack Formylation","reactants_smiles": ["c1c(c2ccccc2)c(C)c(c2ccccc2)c(Cl)c1C(F)(F)F","CN(C)C=O","O=P(Cl)(Cl)Cl"],"products_smiles": ["c1(C=O)c(c2ccccc2)c(C)c(c2ccccc2)c(Cl)c1C(F)(F)F"],"conditions": "1. POCl3, DMF; 2. H2O","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[N+](C)=COP([O-])(Cl)(Cl)Cl","step_weight": 0,"rationale": "DMF oxygen attacks electrophilic phosphorus in POCl3 due to strong P=O polarization, forming a stabilized adduct."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CN(C)C=[O+]P(=O)(Cl)Cl","step_weight": 0,"rationale": "Chloride elimination occurs as POCl3 is a good leaving group source, generating a more electrophilic iminium-type phosphorus species."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "ClC(N(C)C)OP(=O)(Cl)Cl","step_weight": 0,"rationale": "Chloride attacks the activated DMF–POCl3 complex at the carbon center, driven by positive charge and good leaving group potential."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "ClC(=[N+](C)C)","step_weight": 0,"rationale": "Elimination of the phosphoryl group yields the iminium chloride, stabilized by resonance between nitrogen and carbon."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1(C(F)(F)F)c(Cl)c(c2ccccc2)c(C)[C+](c2ccccc2)C1C(Cl)N(C)C","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, favored by strong electrophilicity and resonance stabilization of the arenium ion."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CN(C)C(Cl)c1c(c2ccccc2)c(C)c(c2ccccc2)c(Cl)c1C(F)(F)F","step_weight": 0,"rationale": "Proton elimination restores aromaticity, a thermodynamically favorable step in electrophilic aromatic substitution."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+](C)C)c1c(c2ccccc2)c(C)c(c2ccccc2)c(Cl)c1C(F)(F)F","step_weight": 0,"rationale": "Dimethylamino group leaves as a stable amine, driven by formation of a conjugated iminium intermediate."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=Cc1c(c2ccccc2)c(C)c(c2ccccc2)c(Cl)c1C(F)(F)F","step_weight": 0,"rationale": "Water attacks the iminium carbon during aqueous workup, hydrolyzing it to the aldehyde under acidic conditions."}],"description": "POCl3 activates DMF to form an electrophilic iminium species, which undergoes electrophilic aromatic substitution with the aromatic ring. Subsequent elimination and hydrolysis steps yield the formylated aromatic product under Vilsmeier–Haack conditions."}
{"reaction_id": "NR-226_1-C_2-c2ccccc2_3-c2ccc(C(F)(F)F)cc2","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(C)(c2ccccc2)(c2ccc(C(F)(F)F)cc2))C1"],"products_smiles": ["C1CCC[N+](C(C)(c2ccccc2)(c2ccc(C(F)(F)F)cc2))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(C)(c2ccccc2)(c2ccc(C(F)(F)F)cc2))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(C)(c2ccccc2)(c2ccc(C(F)(F)F)cc2))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(C)(c2ccccc2)(c2ccc(C(F)(F)F)cc2))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
